US06177440B1
C. Preparation of 9-benzyl-5-methoxy-8-methyl-1,2,3,4-tetrahydrocarbazole-4-carboxamide
A slurry of 0.38 g of ammonium chloride in 15 ml of dry toluene was cooled in an ice bath and treated with 3.5 ml of a 2.0 M solution of trimethylaluminum in toluene. This mixture was stirred for 1 hour at room temperature, whereupon 0.762 g (2.02 mmol) of ethyl 9-benzyl-5-methoxy-8-methyl-1,2,3,4-tetrahydrocarbazole-4-carboxylate in 10 ml of toluene and 1 ml of dichloromethane was added. The mixture was heated to 50° C. overnight, cooled and quenched with 20 ml of aqueous 5% HCl solution. Ethyl acetate extracts (3×100 ml) were washed with water and then with brine, dried over magnesium sulfate and concentrated to afford 0.693 g (98%) of the subtitle compound. ESIMS m/e 349 (M++1) NMR (300 MHz, CDCl3): δ 7.25 (m, 3H); 6.83 (d, J=7.2, 2H); 6.74 (d, J=7.8, 1H); 6.40 (d, J=7.8, 1H); 5.93 (br, 1H); 5.54 and 5.45 (ABq, J=17.7, 2H); 5.42 (br, 1H); 4.14 (br, 1H); 3.87 (s, 3H); 2.65 (dt, J=16.4, 4.1, 1H); 2.55-2.36 (m,2H); 2.45 (s, 3H); 1.97-1.86 (m, 3H).

reactant | ammonium chloride | 0.38 g | [Cl-].[NH4+]
reactant | trimethylaluminum | C[Al](C)C
reactant | ethyl 9-benzyl-5-methoxy-8-methyl-1,2,3,4-tetrahydrocarbazole-4-carboxylate | 2.02 mmol, 0.762 g | C(C1=CC=CC=C1)N1C2=C(C=CC(=C2C=2C(CCCC12)C(=O)OCC)OC)C | C24H27NO3
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 9-benzyl-5-methoxy-8-methyl-1,2,3,4-tetrahydrocarbazole-4-carboxamide | 0.693 g, 98% | C(C1=CC=CC=C1)N1C2=C(C=CC(=C2C=2C(CCCC12)C(=O)N)OC)C | C22H24N2O2
